Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
C7 fracture with transaminitis 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ HIV+, DM s/p fall from standing onto his chin and
hyperextended his neck.  Reportedly has full memory of the 
event, did
not lose consciousness but could not recall events overnight and 
does not have any complaints except for pain in the right hip. 
Originally presented to OSH, was noted to have a C7 fracture, 
and he was transferred to ___.  In the ambulanceon transfer, 
the patient had two grand mal seizures.  He does not have a 
history of seizure.  
He currently reports pain only "mild" in his neck and in his 
right hip, which he reports is chronic and "not worse" than 
before the fall.

 
Past Medical History:
PMH: DMII, HIV, HTN, anxiety  

PSH: R total hip, L knee surgery, CCY  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:

VS - Temp afebrile, BP 136/79, HR 66, R 16, O2-sat 96% RA  
General: Alert, oriented but forgetful, NAD  
HEENT: PERRL, EOMI, Sclera anicteric, dry MMM, oropharynx clear, 
no petechiae  
Neck: ___ J collar - not further assessed  
Lungs: CTA ant/laterally (not turned ___ to logroll)  
CV: RRR, III/VI sys murmur heard best at the LUSB, no extra 
sounds  
Abdomen: +BS, soft, non-tender, distended ___ to habitus, no 
rebound tenderness or guarding, Non-pulsating hepatomegaly with 
liver edge extending 6cm below the costal border at the 
mid-clavicular line. Spleen tip difficult to palpate ___ to 
current patient positioning  
Ext: Warm, well perfused, 2+ pulses at DP and radial, no 
clubbing or edema  
Skin: No jaundice, No spider angiomas on chest, no petechiae 
seen, no palmar erythema  
Neuro: A&Ox2 (not sure about date - thought ___, also not 
sure about which exact hospital), CN grossly intact, sensation 
intact throughout, moving all extremities without deficit  

PHYSICAL EXAM ON DISCHARGE:

Neuro/Psych: A+Ox3 and less forgetful than on admission, 
numbness/tingling in C6 distribution on arm

 
Pertinent Results:
Lab Results on Admission:
___ 12:45AM BLOOD WBC-6.2 RBC-4.41* Hgb-14.8 Hct-42.7 
MCV-97 MCH-33.6* MCHC-34.7 RDW-14.4 Plt Ct-82*
___ 03:58AM BLOOD Neuts-69.3 ___ Monos-6.5 Eos-0.4 
Baso-0.1
___ 12:45AM BLOOD ___ PTT-34.9 ___
___ 12:45AM BLOOD ___ 12:45AM BLOOD UreaN-13 Creat-0.7
___ 03:58AM BLOOD Glucose-127* UreaN-10 Creat-0.5 Na-139 
K-3.2* Cl-108 HCO3-25 AnGap-9
___ 12:45AM BLOOD ALT-71* AST-80* AlkPhos-81 TotBili-2.8*
___ 12:45AM BLOOD Lipase-66*
___ 03:58AM BLOOD Calcium-7.1* Phos-1.9* Mg-1.6
___ 12:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:53AM BLOOD Glucose-130* Lactate-7.4* Na-138 K-3.7 
Cl-103 calHCO3-20*
___ 05:30PM BLOOD Lactate-0.9

Studies: 
___ CT Torso: Partially imaged fx of C7 rt transverse process 
Scoliosis of the lumbar spine. Mild retrolisthesis so L5 on S1 - 
likely degenerative. No acute spine fracture. Right hip 
prosthesis: no evidence of hardward failure or loosening. No 
dislocation. Equivocal focal area of discontinuity along the 
anterior right acetabulum - likely do to streak artifact, though 
given the clinical hx of severe right hip pain - small fracture 
cannot be excluded.

___ Trauma X-ray chest and abdomen: IMPRESSION:
1. Mild pulmonary vascular congestion, though no overt edema or 
effusions.
2. Right hip total arthroplasty in standard position. Please see 
concurrent
CT torso report for details. 

___ CT CHEST ABDOMEN and PELVIS with CONTRAST: IMPRESSION:
1. Partially imaged non-displaced fracture of the right 
transverse process of C7.
2. Scoliosis of the lumbar spine with degenerative changes 
including mild
retrolisthesis of L5 on S1. However, no acute fracture of the 
thoracolumbar
spine.
3. No evidence of hardware loosening, dislocation, or fracture 
at the site of right hip arthroplasty.
4. Lobulated liver contour with splenomegaly and collateral 
vasculature,
findings suggesting underlying chronic liver disease with some 
degree of
portal hypertension.
5. 13 x 16-mm hypoattenuating lesion within the pancreatic body, 
possibly a
pancreatic cystic lesion such as an IPMN or a small adjacent 
lymph node.
Further characterization with MRCP should be considered if 
clinically
indicated.
6. Sigmoid diverticulosis without evidence of acute 
diverticulitis.

___ CT HEAD: IMPRESSION:
1. No evidence of mass, edema, mass effect, or evidence of 
herniation.
2. Evaluation for intracranial hemorrhage is limited due to the
administration of intravenous contrast.
3. Fluid level in the left maxillary sinus without evidence of 
fracture.
However, if there is concern for acute facial bone fracture, 
dedicated CT
could be considered.

___ ECG: Baseline artifact. Sinus bradycardia. Borderline P-R 
interval prolongation. Left ventricular hypertrophy by voltage. 
No previous tracing available for comparison. Clinical 
correlation is suggested. 

___ CTA neck: IMPRESSION:
1. Fracture of right transverse process of C7 with no associated 
vascular
injury.
2. Multilevel degenerative changes of the cervical spine.

___ MR HEAD without contrast: IMPRESSION: Technically limited 
MRI study. Only limited sequences could be obtained which were 
degraded by motion artifacts. Fluid signal seen within the left 
maxillary, ethmoid, and sphenoid sinuses. A repeat MRI is 
suggested after adequately sedating the patient.

___ TTE: IMPRESSION: No structural cardiac cause of syncope 
identified. Preserved global and regional biventricular systolic 
function. No structural valvular abnormality. No resting or 
inducible LVOT obstruction. Biatrial dilation.

Lab Results on Discharge:

___ 05:05AM BLOOD WBC-4.8 RBC-4.13* Hgb-14.2 Hct-39.5* 
MCV-96 MCH-34.4* MCHC-36.0* RDW-14.2 Plt Ct-64*
___ 05:05AM BLOOD Neuts-63.9 Bands-0 ___ Monos-7.4 
Eos-1.5 Baso-0.5
___ 05:05AM BLOOD ___ PTT-37.6* ___
___ 05:00AM BLOOD Glucose-43* UreaN-10 Creat-0.7 Na-138 
K-3.7 Cl-103 HCO3-29 AnGap-10
___ 05:00AM BLOOD ALT-48* AST-60* AlkPhos-76 TotBili-2.1*
___ 05:00AM BLOOD Calcium-8.1* Phos-2.8 Mg-1.8
___ 05:05AM BLOOD Ferritn-455*
___ 05:05AM BLOOD Smooth-NEGATIVE
 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION: Patient is a ___ yo man with 
HIV on HAART therapy (last CD4 377 and VL neg on ___, DMII, 
and early cirrhosis (thought EtOH) who was admitted to ___ 
after he slipped on a dog pillow at home and was found to have 
C7 fracture. On transfer from OSH, patient had 2 seizures in the 
ambulance ride over. These were felt to possibly be 
post-traumatic vs. benzodiazepine withdrawal seizures and no 
further episodes occurred. In house, his head was imaged with CT 
showing no acute bleed, and neck CTA confirmed C7 fracture and 
no vascular injury. He was discharged with instructions to wear 
a ___ J-Collar and ___ in 6 weeks at the ___.  
. 
ACUTE CARE:
. 
1. C7 Fracture: Patient sustained a C7 vertebral fracture 
following a fall at home. He has mild tingling in the right 
first and second digit extending up in a band up his arm and 
otherwise asymptomatic. Imaging confirmed the non-displaced 
fracture with no associated vascular injury. He was discharged 
with ___ J-Collar and ___ appointment in 6 weeks in the 
___.
.  
2. Fall at home: Patient reports having tripped over an object 
on the ground as the precipitating factor for his fall. This 
would seem to be a purely mechanical fall, but other etiologies 
were considered. Patient did have 2 seizures on the way to ___ 
from OSH, and these were ultimately felt to be benzodiazepine 
withdrawal seizures as patient had stopped taking his standing 
lorazepam. It was felt unlikely that seizure caused fall as he 
remembered the event and no one witnessed convulsions. 
Arrhythmia was felt unlikely as patient's EKG showed no rhythm 
abnormality. Echo showed no valvular disease that could 
contribute to fall. In the end fall was felt to be mechanical 
and patient was discharged with instructions to take lorazepam 
as prescribed by outside provider.
.
3. Seizures: Patient had two 60-90sec self-resolving generalized 
tonic-clonic seizures on transport from OSH to ___. He has no 
prior seizure hx. These were felt to be post-traumatic vs. 
benzodiazepine withdrawal seizures as patient had recently 
stopped taking his scheduled lorazepam as prescribed. Initially 
keppra was loaded but d/c'd once acute intracranial pathology 
was ruled out and patient's scheduled lorazepam restarted. He 
had no further seizure episodes and was discharged with standing 
BID lorazepam.
.
4. Lower Back Pain: Patient experienced exacerbation of his 
chronic lower back/right hip pain following fall. He had no 
neurologic deficits in sensation or strength. His spine was 
cleared by neurosurgery and he was taken off logroll precautions 
which were initially started. Pain was managed with with 
dilaudid and he was transitioned to his home oxycodone dose for 
pain control.
.  
5. Elevated AST/ALT/Tbili:  
Seems to be at baseline. The patient has multiple medications 
that could be cause elevated transaminases, but the differential 
for AST/ALT ratio greater than 1 is small and includes the 
possibilty of cirrhosis vs EtOH. Imaging shows hepatomegaly and 
splenomegaly with past CTs indicating early cirrhosis and INR 
1.5 with Alb 2.9 making cirrhosis most likey. Tbili elevation 
likely due to protease inhibitor and is at chronic baseline. ___ 
have had a recent alcohol induced insult as AST/ALT from ___ 
at PCP ___ 206/116 but current alcohol screen negative.  
.  
6. Elevated Lipase:  
Patient asymptomatic, but found to have hypodense mass in the 
pancreas concerning for IPMN. Unclear if this has been worked up 
in the past. Also possible that recent alcohol use (which bumped 
AST on ___ lead to mild pancreatitis and now seeing lipase 
down-trend. D/C summary to be faxed to PCP for ___  
. 
CHRONIC CARE: 
1. Splenomegaly:  
Most likely cause is liver disease with cirrhosis. Possible that 
HIV may be contributing. Seems to be stable finding per outside 
CT from ___. 
.  
2. Thrombocytopenia:  
At baseline (50-90k). No smear on record. Most likely ___ to 
sequstration from splenic enlargement in setting of cirrhosis.  
.  
3. Hear Murmur:  
No records here on record although the patient says that he has 
been told this in the past. Would defer further management to 
his outpatient provider.  
.  
4. DMII:  
No A1C in records here. Just on Glyburide 5mg BID as outpatient. 
Blood sugars reasonably well controlled since admit on ISS alone 
but not eating. Glyburide restarted on discharge 
.  
5. HTN: On lisinopril + Atenolol as outpt. Briefly managed on IV 
metoprolol but transitioned to home meds with good BP control on 
discharge.
.  
6. Anxiety: Carries dx and was on paroxetine + lorazepam at home 
for this. Not on either since admit. Restarted both before 
discharge
.  
7. HIV:  
Well controlled on Truvada + boosted Darunavir. CD4 377 with VL 
neg. Home meds were continued.
.
TRANSITIONS IN CARE:
1. CODE STATUS: Presumed full
2. MEDICATION CHANGES: no changes made in patient's medications. 
He was told he can choose to discontinue zolpidem QHS
3. ___ APPOINTMENTS: Patient is to ___ with his PCP 
and orthopedics on discharge. Appointments were made for him and 
he was instructed to keep them
4. CT FINDINGS: An incidental finding of a lesion concerning for 
Intraductal papillary mucinous neoplasm was made on CT scan. 
This should be followed up with patient's PCP on discharge. D/C 
summary and CT report faxed to PCP.
 
Medications on Admission:
atenolol 50', glyburide 5'', lidoderm patch, lisinopril 10', 
norvir 100', oxycodone 5' lorazepam 1'', truvada 200-300HS, 
paroxetine 10mg', ambien 10mg', Prezista 400mg''  

 
Discharge Medications:
1. lorazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): do not drive or operate machinery while taking this 
medication.  
2. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. glyburide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. emtricitabine-tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
6. darunavir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
8. paroxetine HCl 10 mg Tablet Sig: One (1) Tablet PO once a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
1. C7 vertebral body fracture.
2. seizures
Secondary:
1. Transaminitis, chronic
2. HIV
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care. You were admitted to 
the hospital following a fall at home. You fractured your C7 
vertebrae and lost consciousness. You also had 2 seizures on the 
way to the hospital. We found that you did not have a bleed in 
the head, and there were no abnormalities when we looked at your 
heart valves. The seizures were likely from not taking 
lorazepam, and this is a medication you should take as 
prescribed.

Please do not make any changes to your medications, but take as 
prescribed. You may discontinue the zolpidem.

You will need to keep the neck collar on for ___ weeks. You 
will also need to follow up with the ___ in 6 weeks. 
You should follow up with your PCP ___ ___ days for suture 
removal.

Please keep all ___ appointments.

Please avoid taking medications with NSAIDs such as naproxen, 
ibuprofen, and aspirin. You may take up to 2gm of acetaminophen 
daily for pain, but no more for risk of liver damage.

Please make a ___ appointment with your gastroenterologist 
within 2 weeks of discharge.
 
Followup Instructions:
___